US07064124B2
tert-Butyl N-[5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-aminobenzoate
tert-Butyl 4-aminobenzoate (0.620 g, 6.209 mmol), triethylamine (0.325 g, 3.209 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.542 g, 3.209 mmol) were added to a methylene chloride solution (150 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.400 g, 1.070 mmol) and the resulting solution was stirred at room temperature for 6 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (ethyl acetate:hexane=1:2→1:0) to obtain the titled compound (0.302 g, 0.549 mmol, 57%).

reactant | tert-Butyl 4-aminobenzoate | 6.209 mmol, 0.620 g | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | triethylamine | 3.209 mmol, 0.325 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 3.209 mmol, 0.542 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 1.070 mmol, 0.400 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl N-[5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-aminobenzoate | 0.549 mmol, 0.302 g, 57% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C1)OC(C)=O)C)=O | C30H31NO9
